US05298652
To 1.44 g (3.17 mmol) of alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid ethyl ester in 100 ml of hot methanol was added 3.5 ml (3.5 mmol) of 1N NaOH. The mixture was heated on a steam bath for 5 minutes, water (20 ml) was added and the solvents were removed at reduced pressure. Water (100 ml) and 7.0 ml of 1.0N HCl were added to the residue and the product was extracted with methylene chloride-THF (4:1). The dried extract was concentrated at reduced pressure to a solid which was recrystallized from acetone-hexane to give 1.14 g (84% yield, mp 98°-100°) of alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid

reactant | alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid ethyl ester | 3.17 mmol, 1.44 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)=O)=O | C28H38O5
reactant | NaOH | 3.5 mmol, 1N, 3.5 ml | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid | 1.14 g, 84% yield | O=C(C(=O)O)C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1 | C26H34O5
